US09056112B2
a) Preparation of 3-methyl-7-(2-butyn-l-yl)-8-bromo-xanthine (compound of formula IV)
3-Methyl-8-bromo-xanthine (30 gm) and N,N-dimethylformamide (170 mL) were charged into a 1000 mL round bottomed flask equipped with a mechanical stirrer. Diisopropylethylamine (DIPEA, 15.9 gm) and 1-bromo-2-butyne (16.2 gm) were added at 30° C. The reaction mixture was heated to 85° C. and maintained the temperature for 4 hours. The reaction mixture was cooled to 30° C. and pre cooled water (300 mL) was added. The solid formed was collected by filtration and washed with pre cooled water (150 mL) and diethyl ether (30 mL). The solid was dried in oven under vacuum at 50° C. to get 30.9 gm of the title compound.

reactant | 3-Methyl-8-bromo-xanthine | 30 gm | CN1C(NC(C=2NC(=NC12)Br)=O)=O | C6H5BrN4O2
reactant | N,N-dimethylformamide | 170 mL | CN(C=O)C | C3H7NO
reactant | Diisopropylethylamine | 15.9 gm | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-bromo-2-butyne | 16.2 gm | BrCC#CC | C4H5Br
solvent | water | 300 mL | O | H2O
product | 3-methyl-7-(2-butyn-l-yl)-8-bromo-xanthine | 30.9 gm | CN1C(NC(C=2N(C(=NC12)Br)CC#CC)=O)=O | C10H9BrN4O2
